US05459138
Stage A: 4H-Pyrido[2,3-e][1,2,4]thiadiazine 1,1-dioxide
A mixture of 2 g of 2-aminopyridine-3-sulfonamide (Preparation 6) and 20 cm3 of ethyl orthoformate is brought to reflux for 1 hour. After cooling, the crystalline precipitate obtained is collected on a filter and washed with ether.

reactant | 2-aminopyridine-3-sulfonamide | 2 g | NC1=NC=CC=C1S(=O)(=O)N | C5H7N3O2S
reactant | ethyl orthoformate | 20 cm3 | C(OCC)([O-])[O-]
product | 4H-Pyrido[2,3-e][1,2,4]thiadiazine 1,1-dioxide | S1(N=CNC2=C1C=CC=N2)(=O)=O | C6H5N3O2S
